US05712267
(2S,4S)-4-Mercapto-2-[(3R)-3-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 0.23 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 0.10 g of N,N'-carbonyldiimidazole and 0.17 g of (2R)-2-methyl-1-(4-nitrobenzyloxycarbonyl)piperazine, 0.21 g of the title compound was obtained as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 0.23 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | (2R)-2-methyl-1-(4-nitrobenzyloxycarbonyl)piperazine | 0.17 g | C[C@H]1N(CCNC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O4
product | (2S,4S)-4-Mercapto-2-[(3R)-3-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.21 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@H](N(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C26H29N5O9S
